US04710507
A stirred solution of 2-methoxy-8-methyl-6-(3-pyridyl)quinoline (1.07 g) in 5M hydrochloric acid (10 cm3) was heated under reflux for 2.5 hours and then cooled. The cooled solution was basified to pH 9 with 2M aqueous sodium hydroxide, extracted with chloroform:methanol 9:1 (4×100 cm3), and the combined and dried (MgSO4) extracts were concentrated in vacuo to afford a solid. Recrystallisation of the solid from ethyl acetate-methanol gave 8-methyl-6-(3-pyridyl)-2-(1H)-quinolone, m.p. 235.5°-236.5°, (0.63 g).

reactant | 2-methoxy-8-methyl-6-(3-pyridyl)quinoline | 1.07 g | COC1=NC2=C(C=C(C=C2C=C1)C=1C=NC=CC1)C | C16H14N2O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | hydrochloric acid | 5M, 10 cm3 | Cl | ClH
product | 8-methyl-6-(3-pyridyl)-2-(1H)-quinolone | CC=1C=C(C=C2C=CC(NC12)=O)C=1C=NC=CC1 | C15H12N2O
